US04927565
517 mg of ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-ethyl-2-propenoate was dissolved in 3.10 ml of an ethanol/water (9/1) solution of 2N potassium hydroxide, and the mixture was stirred for 3 hours at room temperature. The reaction solution was adjusted to pH 2 with 1N hydrochloric acid under cooling with ice. Then, 24 ml of water was added thereto and extracted three times with 20 ml of ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-ethyl-2propenoic acid as a colorless oily substance.

reactant | ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-ethyl-2-propenoate | 517 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)OCC)CC)(C)C | C24H35NO5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 24 ml | O | H2O
solvent | ethanol water | 3.10 ml | C(C)O.O
solvent | potassium hydroxide | 2N | [OH-].[K+]
product | 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-ethyl-2propenoic acid | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)O)CC)(C)C | C22H31NO5
